US06235731B1
3) Synthesis of (E)-5-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one dihydrochloride
In 2 ml of methanol was dissolved 0.281 g (E)-5-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one, followed by addition of a stoichiometric excess of methanolic hydrochloric acid, and the mixture was stirred for 10 minutes. This reaction mixture was concentrated and crystallized from ethanol-diethyl ether to provide the title compound.

reactant | (E)-5-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one | 0.281 g | C1(=CC=CC=C1)CCCN1CCC(CC1)CCC(/C=C/C1=CC2=CN=C3C=CC=C(S1)N32)=O | C28H31N3OS
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | (E)-5-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)CCC(/C=C/C1=CC2=CN=C3C=CC=C(S1)N32)=O | InChI=1S/C28H31N3OS.2ClH/c32-25(13-14-26-20-24-21-29-27-9-4-10-28(33-26)31(24)27)12-11-23-15-18-30(19-16-23)17-5-8-22-6-2-1-3-7-22;;/h1-4,6-7,9-10,13-14,20-21,23H,5,8,11-12,15-19H2;2*1H/b14-13+;;
